US08871361B2
Synthesis of 2-(3-bromo-5-methylphenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole
To a 250 mL round bottom flask was added 3-bromo-N-(2,6-diisopropylphenyl)-5-methylbenzimidamide (2.92 g, 7.82 mmol), 2-chloroacetaldehyde (50%, 2.456 g, 15.64 mmol), sodium bicarbonate (1.314 g, 15.64 mmol), 60 mL 2-propanol. The reaction mixture was heated to reflux overnight under nitrogen. The reaction mixture was cooled and diluted with ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organic layers were washed with 10% LiCl solution, brine, dried over magnesium sulfate, filtered, and evaporated. The material was purified by column chromatography eluting with 15 and 20% ethyl acetate/hexane to give desired product (2.45 g, 79%).

reactant | 3-bromo-N-(2,6-diisopropylphenyl)-5-methylbenzimidamide | 7.82 mmol, 2.92 g | BrC=1C=C(C(NC2=C(C=CC=C2C(C)C)C(C)C)=N)C=C(C1)C | C20H25BrN2
reactant | 2-chloroacetaldehyde | 15.64 mmol, 2.456 g | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 15.64 mmol, 1.314 g | C([O-])(O)=O.[Na+]
reactant | 2-propanol | 60 mL | CC(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(3-bromo-5-methylphenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole | 2.45 g, 79% | BrC=1C=C(C=C(C1)C)C=1N(C=CN1)C1=C(C=CC=C1C(C)C)C(C)C | C22H25BrN2
